US08193228B2
2-(4-{2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-fluoro-1-methylethyl}phenyl)-5-fluoropyridine
1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol (250 mg, 0.68 mmol) in a minimal volume of methylene chloride was added to HF-pyridine (0.5 mL). After stirring at ambient temperature for 1 h, the reaction was added dropwise to trimethylsilylethanol at 0° C. and concentrated in vacuo azeotroping with toluene. The residue was partitioned between ethyl acetate and 1 M aqueous sodium hydroxide. The organic phase was washed with brine, dried (sodium sulfate) and concentrated in vacuo. High pressure liquid chromatography (Chiralcel AD column) eluting with 20% isopropanol/heptane afforded the separate enantiomers. 1H NMR (500 MHz, CDCl3) δ 8.52 (d, J=2.7 Hz, 1H), 7.90 (d, J=8.2 Hz, 2H), 7.69 (dd, J=4.3, 8.7 Hz, 1 h), 7.48-7.42 (m, 3h), 6.62 (s, 1H), 3.39 (d, J=25.4 Hz, 1H), 2.39 (s, 2H), 1.68 (d, J=22.8, 3H), 0.86 (s, 9H).

reactant | 1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol | 0.68 mmol, 250 mg | CC(CC=1N=C(NC1)CC(C)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)C | C22H26FN3O
reactant | HF-pyridine | 0.5 mL | C1=CC=NC=C1.F
reactant | trimethylsilylethanol | C[Si](C)(C)C(C)O | C5H14OSi
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-{2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-fluoro-1-methylethyl}phenyl)-5-fluoropyridine | CC(CC=1N=C(NC1)CC(C)(F)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)C | C22H25F2N3
